US04654348
2-Methyl-3-hydroxy-7-ethoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine
10 g of 2-methyl-3-hydroxy-7-mercapto-pyrazolo[4,3-d]pyrimidine and 8.36 g of anhydrous potassium carbonate were dissolved in 100 ml of water, and after an addition of 8.08 g of ethyl bromoacetate, the mixture was stirred at room temperature for 4 hours. After confirming the completion of the reaction by means of thin layer chromatography, the reaction mixture was shaked with chloroform, whereby by-products were extracted to the chloroform layer and thus removed. The aqueous layer was neutralized with 1:1 hydrochloric acid to bring the pH to a level of from 3 to 4. The precipitated crystals were collected by filtration and then washed with water. Then, the crystals were recrystallized from acetone.

reactant | 2-methyl-3-hydroxy-7-mercapto-pyrazolo[4,3-d]pyrimidine | 10 g | CN1N=C2C(N=CN=C2S)=C1O | C6H6N4OS
reactant | potassium carbonate | 8.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 8.08 g | BrCC(=O)OCC | C4H7BrO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 ml | O | H2O
product | 2-Methyl-3-hydroxy-7-ethoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine | CN1N=C2C(N=CN=C2SCC(=O)OCC)=C1O | C10H12N4O3S
